US08076345B2
C) (R)-3-(benzyl((S)-1-phenylethyl)amino)-3-(6-methylpyridin-3-yl)propan-1-ol
To a solution of LiAlH4 (1.24 g, 32.79 mmol) in THF (80 mL) at 0° C., was added dropwise a solution of (R)-tert-butyl 3-(benzyl((S)-1-phenylethyl)amino)-3-(6-methylpyridin-3-yl)propanoate (4.7 g, 10.93 mmol) in THF and was heated to 75° C. After 4 h, the reaction mixture was quenched with EtOAc and filtered. The filtrate was washed with excess EtOAc and dried under high vacuum to afford a residue. Purification of the residue by column chromatography (neutral Al2O3, Et2O/Pet ether 15:85) afforded the title compound.

reactant | LiAlH4 | 32.79 mmol, 1.24 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (R)-tert-butyl 3-(benzyl((S)-1-phenylethyl)amino)-3-(6-methylpyridin-3-yl)propanoate | 10.93 mmol, 4.7 g | C(C1=CC=CC=C1)N([C@H](CC(=O)OC(C)(C)C)C=1C=NC(=CC1)C)[C@@H](C)C1=CC=CC=C1 | C28H34N2O2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | (R)-3-(benzyl((S)-1-phenylethyl)amino)-3-(6-methylpyridin-3-yl)propan-1-ol | C(C1=CC=CC=C1)N([C@H](CCO)C=1C=NC(=CC1)C)[C@@H](C)C1=CC=CC=C1 | C24H28N2O
